US08404681B2
Trifluoromethanesulfonic anhydride (0.54 mL, 3.21 mmol) was added slowly to a solution of, 1,3-dihydroxyxanthen-9-one (689 mg, 3.02 mmol) and pyridine (7.3 mL) in CH2Cl2 (30 mL) at 0° C. The reaction then was allowed to slowly warm to RT and stirred for 16 h. The orange mixture then was dissolved in CH2Cl2 (100 mL), and washed with 10% citric acid (2×25 mL) and brine (1×25 mL). The organics were dried (Na2SO4), concentrated, and purified by Biotage chromatography using 10% EtOAc/hexanes as eluent to yield 702 mg (65%) of trifluoromethanesulfonic acid 1-hydroxy-9-oxo-9H-xanthen-3-yl ester as a light yellow solid. Rf=0.65 (50% EtOAc/hexanes). See R. Pillai et al., J. Org. Chem., 51, pages 717-723 (1986). 1H NMR (DMSO-d6, 400 MHz) δ: 12.90 (s, 1H), 8.20 (d, 1H), 7.96 (dd, 1H), 7.70 (d, 1H), 7.56 (dd, 1H), 7.37 (m, 1H), 7.05 (m, 1H).

reactant | Trifluoromethanesulfonic anhydride | 3.21 mmol, 0.54 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1,3-dihydroxyxanthen-9-one | 3.02 mmol, 689 mg | OC1=CC(=CC=2OC3=CC=CC=C3C(C12)=O)O | C13H8O4
reactant | pyridine | 7.3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 1-hydroxy-9-oxo-9H-xanthen-3-yl ester | 702 mg, 65% | OC1=CC(=CC=2OC3=CC=CC=C3C(C12)=O)OS(=O)(=O)C(F)(F)F | C14H7F3O6S
